.include "Gates_List.cir"

.subckt Propagate_Generate A B G_not P_not high low

    XNAND A B G_not high low NAND_Gate
    XNOR A B P_not high low NOR_Gate

.ends Propagate_Generate

.subckt PG_Ckt A3 A2 A1 A0 B3 B2 B1 B0 G3_not G2_not G1_not G0_not P3_not P2_not P1_not P0_not high low

    XPG0 A0 B0 G0_not P0_not high low Propagate_Generate
    XPG1 A1 B1 G1_not P1_not high low Propagate_Generate
    XPG2 A2 B2 G2_not P2_not high low Propagate_Generate
    XPG3 A3 B3 G3_not P3_not high low Propagate_Generate

.ends PG_Ckt